US07317033B2
a) trans-N-(2-Aminocyclohexyl)-N′-(4-methyl-3-thienyl)thiourea (racemate)
is obtained analogously to the reaction described in example 1 b) from 4-methyl-3-thienyl isothiocyanate and racemic trans-1,2-diaminocyclohexane. Crystalline solid, m.p. 205-210° C.,

reactant | 4-methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
reactant | racemic trans-1,2-diaminocyclohexane | N[C@H]1[C@@H](CCCC1)N | C6H14N2
product | trans-N-(2-Aminocyclohexyl)-N′-(4-methyl-3-thienyl)thiourea | N[C@H]1[C@@H](CCCC1)NC(=S)NC1=CSC=C1C | C12H19N3S2
